US08491868B2
Synthesis of 1-(4-(3-fluoropropyl)phenyl)piperazine
Tert-butyl 4-(4-(3-fluoropropyl)phenyl)piperazine-1-carboxylate (78 mg, 0.24 mmol) was dissolved in a 4.0M solution of HCl in dioxane (3 mL) and stirred at room temperature. After 1 h 1-(4-(3-fluoropropyl)phenyl)piperazine hydrochloride was collected as a white solid via filtration (63 mg). 1H NMR (300 MHz, CDCl3): δ 9.58 (br s, 2H), 9.38 (br s, 1H), 7.15 (d, 2H, J=8.7 Hz), 7.00 (d, 2H, J=8.6 Hz), 4.49 (t, 1H, J=6.0 Hz), 4.34 (t, 1H, J=6.0 Hz), 3.40 (dd, 4H, J=5.5, 4.7 Hz), 3.22 (br s, 4H), 2.59 (dd, 2H, J=8.1, 6.3 Hz), 1.98-1.80 (m, 2H); 19F NMR (282.4 MHz, CDCl3): δ−217.98 (m, 1F); 13C NMR (75.5 MHz, CDCl3): δ 147.3, 133.6, 128.9, 116.71, 83.6 (82.5), 46.2, 42.2, 31.5 (31.4), 29.7 (29.6); HRMS calcd for C13H19FN2:223.160503 found 223.16060.

reactant | Tert-butyl 4-(4-(3-fluoropropyl)phenyl)piperazine-1-carboxylate | 0.24 mmol, 78 mg | FCCCC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C18H27FN2O2
solvent | HCl | Cl | ClH
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 1-(4-(3-fluoropropyl)phenyl)piperazine | FCCCC1=CC=C(C=C1)N1CCNCC1 | C13H19FN2
